US05521216
2 ml aqueous solution of 347 mg oxone (0.564 mmol) was added dropwise to 4 ml of 158 mg of 7-isopropoxy-5-methoxy-2-methylthiochromone (0.564 mmol) in methanol, and the mixture was stirred for 30 min. After addition of water, the reaction solution was extracted twice with ethyl acetate, and the organic layer washed with saturated NaCl water and dried over sodium sulfate anhydride. The solvent was then distilled off under reduced pressure, thus giving 147 mg of 7-isopropoxy-5-methoxy-2-methylsulfinylchromone (containing a little sulfone). This product was subjected without purification to the following reaction.

reactant | oxone | 0.564 mmol, 347 mg | OOS(=O)[O-].[K+]
reactant | 7-isopropoxy-5-methoxy-2-methylthiochromone | 0.564 mmol, 4 ml, 158 mg | C(C)(C)OC1=CC(=C2C(C=C(OC2=C1)C)=S)OC | C14H16O3S
reactant | water | O | H2O
reactant | methanol | CO | CH4O
product | 7-isopropoxy-5-methoxy-2-methylsulfinylchromone | 147 mg | C(C)(C)OC1=CC(=C2C(C=C(OC2=C1)S(=O)C)=O)OC | C14H16O5S
